.SUBCKT AO3414 4 1 2
M1  3 1 2 2 NMOS W=391872u  L=1.0u 
M2  2 1 2 4 PMOS W=391872u  L=0.93u
R1  4 3     RTEMP 32E-3
CGS 1 2     1E-12
DBD 2 3     DBD
**************************************************************************
.MODEL  NMOS       NMOS  (LEVEL  = 3               TOX    = 1.5E-8
+ RS     = 1e-4          RD     = 0               NSUB   = 1.2E17  
+ UO     = 225        VTO=0.81     THETA  = 0
+ VMAX   = 0              XJ     = 4E-7            KAPPA  = 0.01
+ ETA    = 0              TPG    = 1  
+ IS     = 0              LD     = 0                           
+ CGSO   = 0              CGDO   = 0               CGBO   = 0 
+ NFS    = 2E10         DELTA  = 0.1)
*************************************************************************
.MODEL  PMOS       PMOS (LEVEL   = 3               TOX    = 1.5E-8
+NSUB    = 2.0E16      NSS=-6E11 TPG    = -1)   
*************************************************************************
.MODEL DBD D (CJO=46E-12     VJ=0.8    M=0.3
+RS=0.02 FC=0.5 IS=1.3E-9 TT=1.5E-7 N=1 BV=36 IBV=1E-4)
*************************************************************************
.MODEL RTEMP RES (TC1=2.0E-3   TC2=3E-6)
*************************************************************************
.ENDS

